US07700657B2
(b) (3E,5E)-6-[3-(3,4-Bis-hydroxymethylbenzyloxy)-phenyl]-1,1,1-trifluoro-2-trifluoromethylocta-3,5-dien-2-ol
In a manner analogous to example 2m, by reaction of 640 mg (0.89 mmol) of (3E,5E)-6-{3-[3,4-bis(tert-butyldimethylsilanyloxymethyl)benzyloxy]-phenyl}1,1,1-trifluoro-2-trifluoromethylocta-3,5-dien-2-ol with 2.1 ml (2.1 mmol) of a 1.0 M solution of tetrabutylammonium fluoride. A colorless oil is obtained (m=260 mg; Y=60%).

reactant | (3E,5E)-6-{3-[3,4-bis(tert-butyldimethylsilanyloxymethyl)benzyloxy]-phenyl}1,1,1-trifluoro-2-trifluoromethylocta-3,5-dien-2-ol | 0.89 mmol, 640 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=C(COC=2C=C(C=CC2)/C(=C/C=C/C(C(F)(F)F)(O)C(F)(F)F)/CC)C=CC1CO[Si](C)(C)C(C)(C)C | C36H52F6O4Si2
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (3E,5E)-6-[3-(3,4-Bis-hydroxymethylbenzyloxy)-phenyl]-1,1,1-trifluoro-2-trifluoromethylocta-3,5-dien-2-ol | OCC=1C=C(COC=2C=C(C=CC2)/C(=C/C=C/C(C(F)(F)F)(O)C(F)(F)F)/CC)C=CC1CO | C24H24F6O4
